US05872137
A reaction vessel was charged with 24.5 g of 4-hydroxyphenyl benzoate and 500 ml of carbon tetrachloride, to which a solution of 24.8 g of t-butyl hypochlorite dissolved in 20 ml of carbon tetrachloride was slowly added dropwise, while stirring under ice cooling. After 24 hours, the reaction mixture was poured into water, followed by phase separation. The organic layer (i.e., carbon tetrachloride layer) was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 29.5 g of 3,5-dichloro-4-hydroxyphenyl benzoate (91% yield).

reactant | 4-hydroxyphenyl benzoate | 24.5 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)O | C13H10O3
reactant | t-butyl hypochlorite | 24.8 g | ClOC(C)(C)C | C4H9ClO
reactant | water | O | H2O
reactant | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,5-dichloro-4-hydroxyphenyl benzoate | 29.5 g, 91% yield | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)Cl)O)Cl | C13H8Cl2O3
